US05391778
10.3 g (40 mmol) of iodine is added to 10 g (33 mmol) of 1α-methyl-androst-4-ene-3,17-dione and 7.33 g (40 mmol) of CuO in 300 ml of glacial acetic acid with stirring at room temperature. It is stirred under nitrogen atmosphere for 24 hours at 60° C. Under reduced pressure, acetic acid is distilled off. The residue is added in 600 ml of water, the product is extracted 3 times with 200 ml of ethyl acetate each, the combined ethyl acetate phases are washed neutral with sodium thiosulfate solution, then with saturated sodium carbonate solution and dried on sodium sulfate. After concentration by evaporation of the solution and drying of the substance at 0.8 torr, 15.0 g (106% of theory) of 2-iodo-1α-methyl-androst-4-ene-3,17-dione is obtained as crude product.

reactant | iodine | 40 mmol, 10.3 g | II | I2
reactant | 1α-methyl-androst-4-ene-3,17-dione | 33 mmol, 10 g | C[C@H]1CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C20H28O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-iodo-1α-methyl-androst-4-ene-3,17-dione | 15.0 g, 106% | IC1C(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@H]1C)C)=O)=O | C20H27IO2
